US05643784
Thionylchloride (44 ml) was added dropwise with water-cooling to a solution of 5-chloro-3-(4-fluorophenyl)-2,3-dihydro-1H-inden-1-ol in ether (2L) with a catalytic amount of DMF (0.5 ml). Then the mixture was stirred for 2 hours at room temperature, poured into ice and neutralized with 9N NaOH. The organic phase was separated, dried (MgSO4) and evaporated to give 140 g of crude 1,5-dichloro-3-(4-fluorophenyl)-2,3-dihydro-1H-inden.

reactant | Thionylchloride | 44 ml | S(=O)(Cl)Cl | Cl2OS
reactant | water | O | H2O
reactant | 5-chloro-3-(4-fluorophenyl)-2,3-dihydro-1H-inden-1-ol | ClC=1C=C2C(CC(C2=CC1)O)C1=CC=C(C=C1)F | C15H12ClFO
reactant | NaOH | 9N | [OH-].[Na+]
solvent | ether | CCOCC | C4H10O
solvent | DMF | 0.5 ml | CN(C)C=O | C3H7NO
product | 1,5-dichloro-3-(4-fluorophenyl)-2,3-dihydro-1H-inden | 140 g | ClC1CC(C2=CC(=CC=C12)Cl)C1=CC=C(C=C1)F | C15H11Cl2F
